US05700796
N-[4-(3-Methoxy-5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-pyridin-2-yl-benzamide
To a stirred solution of the product from Reference Example 6, 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (0.405 g. 2.20 mmol) in dichloromethane (30 ml), under nitrogen, was added triethylamine (0.37 ml, 2.64 mmol). The mixture was cooled to 0° C. and a solution of the crude 2-methoxy-4-[(2-pyridin-2-ylbenzoyl)-amino]benzoyl chloride (1.16g) in dichloromethane (30 ml) was added dropwise. After 5 hours the reaction mixture was poured into water. The organic layer was separated and sequentially washed twice with water and aqueous sodium bicarbonate, and once with water. The organic solution was dried (Na2SO4) and concentrated in vacuo to give a marron solid (1.1 g, 94%). Purification by flash chromatography on silica gel with hexane-ethyl acetate-methylene chloride-methanol (3:6:2:0.5) as a mobile phase, followed by concentration in vacuo, resulted in a pale purple solid (0.88 g, 76%), m.p. 138°-140° C. MS (FAB),m/z: 515 (M+H).

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2.20 mmol, 0.405 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 2.64 mmol, 0.37 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methoxy-4-[(2-pyridin-2-ylbenzoyl)-amino]benzoyl chloride | 1.16g | COC1=C(C(=O)Cl)C=CC(=C1)NC(C1=C(C=CC=C1)C1=NC=CC=C1)=O | C20H15ClN2O3
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-[4-(3-Methoxy-5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-pyridin-2-yl-benzamide | 1.1 g, 94% | COC1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C3=NC=CC=C3)=O | C32H26N4O3
